US07179822B2
Synthesis of N′-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoyl}-hydrazinecarboxylic acid tert-butyl ester
1.5 g (5.0 mmol) of 3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoic acid from Preparation 4, 1.3 g (6.6 mmol) EDAC.HCl, 0.89 g (6.6 mmol) HOBT, and 0.87 g (6.6 mmol) hydrazinecarboxylic acid tert-butyl ester was dissolved in 20 mL of dimethylformamide. Stirring was continued 48 hours at room temperature. Water (60 mL) was added, and the product was extracted with 1:1 THF/EtOAc (2×). Combined the organic extracts and washed with saturated aqueous NaCl solution (3×), dried (MgSO4). Dried in a vacuum oven overnight at 70° C. to provide 1.6 g (82%) of desired product. MS: m/z (APCI, AP+) 410 [M−]+

reactant | 3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoic acid | 5.0 mmol, 1.5 g | COC1=CC=C(C=C1)C1=CN=C(O1)C=1C=C(C(=O)O)C=CC1 | C17H13NO4
reactant | EDAC.HCl | 6.6 mmol, 1.3 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 6.6 mmol, 0.89 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | hydrazinecarboxylic acid tert-butyl ester | 6.6 mmol, 0.87 g | C(C)(C)(C)OC(=O)NN | C5H12N2O2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Water | 60 mL | O | H2O
product | N′-{3-[5-(4-Methoxy-phenyl)-oxazol-2-yl]-benzoyl}-hydrazinecarboxylic acid tert-butyl ester | 1.6 g, 82% | C(C)(C)(C)OC(=O)NNC(C1=CC(=CC=C1)C=1OC(=CN1)C1=CC=C(C=C1)OC)=O | C22H23N3O5
